US08242153B2
To a cooled (0° C.), stirred mixture of 4-chloro-phenol (4.34 g) and 2,6-dimethylbenzoquinone (4.60 g) was added dropwise a solution of (2-methyl-pent-4-en-2-oxy)diphenylphosphine (8.0 g) in dichloroethane (20 ml). The mixture was then heated at 95° C. for 24 h. The reaction mixture was cooled to room temperature and concentrated in vacuo and the residue was purified by column chromatography (SiO2; gradient: heptane/EtOAc) to give 1-chloro-4-(1,1-dimethyl-but-3-enyloxy)-benzene (0.14 g, 2%) as a colourless oil. MS (EI): 171.1 ([{37Cl}M−C3H5−]+), 1691 ([{35Cl}M−C3H5]+).

reactant | 4-chloro-phenol | 4.34 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 2,6-dimethylbenzoquinone | 4.60 g | CC=1C(C(=CC(C1)=O)C)=O | C8H8O2
reactant | (2-methyl-pent-4-en-2-oxy)diphenylphosphine | 8.0 g | CC(C)(CC=C)OP(C1=CC=CC=C1)C1=CC=CC=C1 | C18H21OP
solvent | dichloroethane | 20 ml | ClC(C)Cl | C2H4Cl2
product | 1-chloro-4-(1,1-dimethyl-but-3-enyloxy)-benzene | 0.14 g, 2% | ClC1=CC=C(C=C1)OC(CC=C)(C)C | C12H15ClO
